US04105681
9-(4-methoxy-2,3,6-trimethyl-phenyl)-3,7-dimethyl-nona-2,4,6,8-tetraen-1-oic acid chloride is reacted with hexylamide to produce 9-(4-methoxy-2,3,6-trimethyl-phenyl)-3,7-dimethyl-nona-2,4,6,8-tetraen-1-oic acid hexylamide, m.p. 157°-158° C.

reactant | 9-(4-methoxy-2,3,6-trimethyl-phenyl)-3,7-dimethyl-nona-2,4,6,8-tetraen-1-oic acid chloride | COC1=C(C(=C(C(=C1)C)C=CC(=CC=CC(=CC(=O)Cl)C)C)C)C | C21H25ClO2
reactant | hexylamide | C(CCCCC)[NH-]
product | 9-(4-methoxy-2,3,6-trimethyl-phenyl)-3,7-dimethyl-nona-2,4,6,8-tetraen-1-oic acid hexylamide | C(CCCCC)NC(C=C(C=CC=C(C=CC1=C(C(=C(C=C1C)OC)C)C)C)C)=O | C27H39NO2
